US08541404B2
To a solution of 8-bromo-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one (9.07 g, 36.0 mmol) and 1,1,1,2,2,2-hexabutyldistannane (29.1 mL, 57.6 mmol) in 40 mL degassed dry toluene was added tetrakis(triphenylphosphine)palladium(0) (4.16 g, 3.60 mmol) under an atmosphere of nitrogen, and the mixture was stirred overnight at 90° C. After cooling to ambient temperature the mixture was concentrated in vacuo. The crude product was purified by flash chromatography on silica gel (hexanes/ethyl acetate, 1/10, Rf=0.1) to yield pure 8-(tributylstannyl)-1,2,5,6-tetrahydropyrrolo[3,2,1-ij]quinolin-4-one as a light yellow oil (7.50 g, 16.2 mmol, 45%).

reactant | 8-bromo-1,2,5,6-tetrahydro-pyrrolo[3,2,1-ij]quinolin-4-one | 36.0 mmol, 9.07 g | BrC=1C=C2CCC(N3C2=C(C1)CC3)=O | C11H10BrNO
reactant | 1,1,1,2,2,2-hexabutyldistannane | 57.6 mmol, 29.1 mL | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 3.60 mmol, 4.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 8-(tributylstannyl)-1,2,5,6-tetrahydropyrrolo[3,2,1-ij]quinolin-4-one | 16.2 mmol, 7.50 g, 45% | C(CCC)[Sn](C=1C=C2CCC(N3C2=C(C1)CC3)=O)(CCCC)CCCC | InChI=1S/C11H10NO.3C4H9.Sn/c13-10-5-4-8-2-1-3-9-6-7-12(10)11(8)9;3*1-3-4-2;/h2-3H,4-7H2;3*1,3-4H2,2H3;
